US05135932
1-(1-Naphthyloxy)-2,3-epoxypropane
1-[4-(2-methoxyethoxy-methyl)phenoxy]-2,3-epoxypropane Rf value: 0.78 (silica gel, dichloromethane/methanol=30:1).

reactant | 1-[4-(2-methoxyethoxy-methyl)phenoxy]-2,3-epoxypropane | COCCOCC1=CC=C(OCC2CO2)C=C1 | C13H18O4
solvent | dichloromethane methanol | ClCCl.CO
product | 1-(1-Naphthyloxy)-2,3-epoxypropane | C1(=CC=CC2=CC=CC=C12)OCC1CO1 | C13H12O2
